US05717100
4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-METHYLPIPERIDINE
To a stirring solution of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine-1-carboxylic acid tert-butyl ester (0.90 mmol,0.38 g) in THF (10 mL) was added lithium aluminum hydride (2.7 mmol,2.7 mL of a 1M solution in tetrahydrofuran). The reaction was heated to reflux overnight. The reaction was diluted with ethyl acetate (20 mL) and quenched with water (2.0 mL). The suspension was filtered and the filtrates dried over anhydrous sodium sulfate. The filtrates were then evaporated under reduced pressure. The resulting solid was triturated with diethyl ether, filtered and recrystallized from ethanol:diethyl ether to give 160 mg. of the title compound as a white powder. mp=259°-261° C.

reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine-1-carboxylic acid tert-butyl ester | 0.90 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C24H27FN4O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-METHYLPIPERIDINE | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCN(CC1)C)C1=CC=NC=C1 | C20H21FN4
